US04607030
(c) 2-Acetamidomethyl-4-(1,1-dimethylethyl)-6-methylsulfamoylphenol
9 g (0.028 mole) of 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol are dissolved in 100 ml of acetone, and 4.9 ml (0.056 mole) of 40% strength aqueous methylamine solution are added dropwise, while cooling with ice. The mixture is stirred for 30 minutes at room temperature and poured into ice water. Recrystallization from n-propanol gives white crystals of melting point 173°-174° C.

reactant | 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol | 0.028 mole, 9 g | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)Cl)O | C13H18ClNO4S
reactant | methylamine | CN | CH5N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-Acetamidomethyl-4-(1,1-dimethylethyl)-6-methylsulfamoylphenol | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(NC)(=O)=O)O | C14H22N2O4S
